US07135466B2
N-(4-Chlorobenzoyl)-N′-{2-chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea
2-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. Commercially available 4-chloro-1-benzenecarbonyl isothiocyanate was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (49 mg, yield 61%).

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 50 mg | ClC1=C(N)C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 4-chloro-1-benzenecarbonyl isothiocyanate | ClC1=CC=C(C=C1)C(=O)N=C=S | C8H4ClNOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chlorobenzoyl)-N′-{2-chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea | 49 mg, yield 61% | ClC1=CC=C(C(=O)NC(=S)NC2=C(C=C(C=C2)OC2=CC=NC3=CC(=C(C=C23)OC)OC)Cl)C=C1 | C25H19Cl2N3O4S
